US07259183B2
Preparation of 2,3-Dihydro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide 76
To a solution of 95 mg (0.22 mmol) of 1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide in 2 ml conc. acetic acid 46 mg of sodium borohydride (0.67 mmol) were added in three portions (ice bath cooling). The reaction mixture was stirred for 3 h at rt, then treated with 2N NaOH to adjust the pH to 12, extracted twice with diethylether and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; EtOAc/heptane 1:4) to give 45 mg white foam (45%). MS(ISP) 431.5 (M+H)+.

reactant | 1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide | 0.22 mmol, 95 mg | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCC2=CC=C(C=C2)F)C=C1 | C28H29FN2O
reactant | sodium borohydride | 0.67 mmol | [BH4-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | acetic acid | 2 ml, 46 mg | C(C)(=O)O | C2H4O2
product | 2,3-Dihydro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide | 45 mg, 45% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3CCNC23)CCC2=CC=C(C=C2)F)C=C1 | C28H31FN2O
